* 8-bit R-2R DAC — IHP SG13G2
* Complementary CMOS switches (NMOS to VSS + PMOS to VDD)
* Both gates driven by d[n]: d=VDD → NMOS on (sw=VSS), d=0 → PMOS on (sw=VDD)
* Inverted output: code 0 → Vout ≈ VDD, code 255 → Vout ≈ 0
* Bit ordering: d0(LSB)→VDD end, d7(MSB)→output end
* Pin order: d7 d6 d5 d4 d3 d2 d1 d0 vout vdd vss

.subckt r2r_dac_8bit d7 d6 d5 d4 d3 d2 d1 d0 vout vdd vss

* Series R chain: VDD -> j0 -> j1 -> ... -> j6 -> vout
* j0 is VDD end (lowest weight, driven by d0=LSB)
* j6/vout is output end (highest weight, driven by d7=MSB)
XRs0  vdd  j0   vss rhigh w=2e-6 l=2.1e-6
XRs1  j0   j1   vss rhigh w=2e-6 l=2.1e-6
XRs2  j1   j2   vss rhigh w=2e-6 l=2.1e-6
XRs3  j2   j3   vss rhigh w=2e-6 l=2.1e-6
XRs4  j3   j4   vss rhigh w=2e-6 l=2.1e-6
XRs5  j4   j5   vss rhigh w=2e-6 l=2.1e-6
XRs6  j5   j6   vss rhigh w=2e-6 l=2.1e-6
XRs7  j6   vout vss rhigh w=2e-6 l=2.1e-6

* Merged 2R shunt arms (folded pair = single 2R)
XR2r0  j0   sd0  vss rhigh w=2e-6 l=4.2e-6
XR2r1  j1   sd1  vss rhigh w=2e-6 l=4.2e-6
XR2r2  j2   sd2  vss rhigh w=2e-6 l=4.2e-6
XR2r3  j3   sd3  vss rhigh w=2e-6 l=4.2e-6
XR2r4  j4   sd4  vss rhigh w=2e-6 l=4.2e-6
XR2r5  j5   sd5  vss rhigh w=2e-6 l=4.2e-6
XR2r6  j6   sd6  vss rhigh w=2e-6 l=4.2e-6
XR2r7  vout sd7  vss rhigh w=2e-6 l=4.2e-6

* NMOS switches: d[N]=VDD → on → shunt arm to VSS
* d0→sd0 (LSB, VDD end), d7→sd7 (MSB, output end)
XMn0  sd0 d0 vss vss sg13_lv_nmos w=10e-6 l=0.13e-6
XMn1  sd1 d1 vss vss sg13_lv_nmos w=10e-6 l=0.13e-6
XMn2  sd2 d2 vss vss sg13_lv_nmos w=10e-6 l=0.13e-6
XMn3  sd3 d3 vss vss sg13_lv_nmos w=10e-6 l=0.13e-6
XMn4  sd4 d4 vss vss sg13_lv_nmos w=10e-6 l=0.13e-6
XMn5  sd5 d5 vss vss sg13_lv_nmos w=10e-6 l=0.13e-6
XMn6  sd6 d6 vss vss sg13_lv_nmos w=10e-6 l=0.13e-6
XMn7  sd7 d7 vss vss sg13_lv_nmos w=10e-6 l=0.13e-6

* PMOS switches: d[N]=0 → on → shunt arm to VDD
XMp0  sd0 d0 vdd vdd sg13_lv_pmos w=20e-6 l=0.13e-6
XMp1  sd1 d1 vdd vdd sg13_lv_pmos w=20e-6 l=0.13e-6
XMp2  sd2 d2 vdd vdd sg13_lv_pmos w=20e-6 l=0.13e-6
XMp3  sd3 d3 vdd vdd sg13_lv_pmos w=20e-6 l=0.13e-6
XMp4  sd4 d4 vdd vdd sg13_lv_pmos w=20e-6 l=0.13e-6
XMp5  sd5 d5 vdd vdd sg13_lv_pmos w=20e-6 l=0.13e-6
XMp6  sd6 d6 vdd vdd sg13_lv_pmos w=20e-6 l=0.13e-6
XMp7  sd7 d7 vdd vdd sg13_lv_pmos w=20e-6 l=0.13e-6

.ends r2r_dac_8bit
